US05514691
4-iso-Propyl-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared in the same manner as described in Example 5 from 5-amino-4-bromo-3methylisoxazole and 4-iso-propylbenzenesulfonyl chloride in 77% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 130°-133° C.

reactant | 5-amino-4-bromo-3methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-iso-propylbenzenesulfonyl chloride | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | 4-iso-Propyl-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | 77% yield | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C13H15BrN2O3S
